US03992389
4-Benzamido-1-(4-phenyl-4-hydroxybutyl)piperidine
4-Benzamido-(4-phenyl-4-oxobutyl)piperidine (3.4 g.) was dissolved in methanol (125 ml.) and a solution of sodium borohydride (6.0 g.) in 0.2N sodium hydroxide (30 ml.) was added at room temperature over a period of 0.5 hours. The resulting mixture was stirred for a further 2 hours and then heated under reflux for 4 hours. The resulting mixture was filtered, the filtrate evaporated almost to dryness and then treated with water (100ml.). The colourless solid was filtered off, washed with water, dried, dissolved in a small amount of ethanolic hydrogen chloride and treated with ether until crystallisation commenced. Filtration and drying gave 1.875 g. of the hydrochloride of the title compound, m.p. 221° C. (Found: C, 68.1; H, 7.4; N, 7.3. C22H28N2O2.HCl requires C, 67.9; H, 7.5; N, 7.2%).

reactant | 4-Benzamido-(4-phenyl-4-oxobutyl)piperidine | 3.4 g | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)CCCC(=O)C1=CC=CC=C1 | C22H26N2O2
reactant | sodium borohydride | 6.0 g | [BH4-].[Na+]
reactant | hydrochloride | Cl | ClH
solvent | methanol | 125 ml | CO | CH4O
solvent | sodium hydroxide | 0.2N, 30 ml | [OH-].[Na+]
product | 4-Benzamido-1-(4-phenyl-4-hydroxybutyl)piperidine | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)CCCC(O)C1=CC=CC=C1 | C22H28N2O2
